US04299834
8-(2-Methoxy-4-methylsulfinyl-phenyl)-purine
An amount of 2.27 g of 8-(2-methoxy-4-methylmercaptophenyl)-purine was dissolved in 20 ml of trifluoro acetic acid, and 1.2 ml of 30% hydrogen peroxide were added under cooling to 5° C. After stirring for 3 hours at room temperature and for 0.5 hours at 30° C., the reaction mixture was diluted with water and neutralized with potassium carbonate, and the residue obtained after evaporation was extracted with hot ethanol. The product obtained was purified over silicagel (eluate: methylene chloride/ethanol in a volume ratio of 19:1).

reactant | 8-(2-methoxy-4-methylmercaptophenyl)-purine | 2.27 g | COC1=C(C=CC(=C1)SC)C1=NC2=NC=NC=C2N1 | C13H12N4OS
reactant | hydrogen peroxide | 1.2 ml | OO | H2O2
solvent | trifluoro acetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 8-(2-Methoxy-4-methylsulfinyl-phenyl)-purine | COC1=C(C=CC(=C1)S(=O)C)C1=NC2=NC=NC=C2N1 | C13H12N4O2S
